US07148226B2
[2-Chloro-4-(3-cyclopentyl-3-oxo-propyl)-phenoxy]-acetic acid methyl ester
The title compound was prepared analogously to Step 1 from Example A(52), where 3-(3-Chloro-4-hydroxy-phenyl)-1-cyclopentyl-propan-1-one was substituted for 4-Bromo-2-fluorophenol and methyl bromo acetate was substituted for methyl □-bromobutyrate in Step 1 of that example. Yield 78%.

reactant | 3-(3-Chloro-4-hydroxy-phenyl)-1-cyclopentyl-propan-1-one | ClC=1C=C(C=CC1O)CCC(=O)C1CCCC1 | C14H17ClO2
reactant | 4-Bromo-2-fluorophenol | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | bromobutyrate | BrC(C(=O)[O-])CC
product | [2-Chloro-4-(3-cyclopentyl-3-oxo-propyl)-phenoxy]-acetic acid methyl ester | Yield 78% | COC(COC1=C(C=C(C=C1)CCC(=O)C1CCCC1)Cl)=O | C17H21ClO4
